US08304443B2
Tert-butyl6-hydroxy-3-cyclopropylindazole-1-carboxylate
Tert-butyl6-(tert-butyldiphenylsilyloxy)-3-cyclopropylindazole-1-carboxylate (5.08 g) which can be prepared according to the method described in Reference example 6, etc. was dissolved in THF (53 mL; manufactured by Kanto Chemical Co., Inc.), and added with 1 mol/L-TBAF-THF solution (19.82 mL), followed by stirring at room temperature for 0.5 hours. To the reaction solution, water and brine were added and extraction was carried out three times with ethyl acetate. The organic layer was washed water and brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=95:5→74:26) to obtain the title compound (2.54 g).

reactant | Tert-butyl6-(tert-butyldiphenylsilyloxy)-3-cyclopropylindazole-1-carboxylate | 5.08 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1CC1 | C31H36N2O3Si
reactant | TBAF THF | 19.82 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
reactant | water | O | H2O
solvent | THF | 53 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | Tert-butyl6-hydroxy-3-cyclopropylindazole-1-carboxylate | 2.54 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)O)C1CC1 | C15H18N2O3
